US08170441B2
10 wt % Fluorinated Ceramer with 1.75 TEOS/polymer
5 wt % Fluorinated Masterbatch. To a 500 mL, three-neck round bottom flask containing dry tetrahydrofuran (THF) (150 mL) under nitrogen was added Terathane™ 650 polytetramethylene glycol (20.62 g, 0.032 mol), 1,4-butanediol (4.50 g, 0.050 mol), Polyfox™ PF-6320 (2.84 g, 0.0008 mol) and trimethylolpropane (1.38 g, 0.010 mol). The mixture was stirred under nitrogen until a solution was obtained; then isophorone diisocyanate (20.66 g, 0.093 mol) was added, and then the mixture was degassed under reduced pressure (0.1 mm Hg). Dibutyltin dilaurate (0.10 g, 0.0002 mol) was added, and the mixture was heated at 60° C. under nitrogen for 5 hours. To the above solution was added 3-isocyanatopropyltriethoxysilane (2.11 g, 0.0085 mol) and additional THF (35 mL). The mixture was heated at 60° C. for 15 hours, yielding a solution containing 24 wt % dissolved solids.

reactant | polytetramethylene glycol | 0.032 mol, 20.62 g | CCCCO[C@@H](CC)CO | C8H18O2
reactant | 1,4-butanediol | 0.050 mol, 4.50 g | C(CCCO)O | C4H10O2
reactant | trimethylolpropane | 0.010 mol, 1.38 g | C(O)C(CC)(CO)CO | C6H14O3
reactant | isophorone diisocyanate | 0.093 mol, 20.66 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | Dibutyltin dilaurate | 0.0002 mol, 0.10 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
reactant | 3-isocyanatopropyltriethoxysilane | 0.0085 mol, 2.11 g | N(=C=O)CCC[Si](OCC)(OCC)OCC | C10H21NO4Si
solvent | THF | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
